US05430157
(-)-2-Chloro-4b-methyl-4b,5,6,10-tetrahydrophenanthrene-7-carboxylic acid
To a stirred solution of methyl (-)-2-chloro-4b-methyl-4b,5,6,10-tetrahydrophenanthrene-7-carboxylate (500 mg, 1.73 mmol.) in methanol (19 mL) and water (2 mL) was added potassium carbonate (300 mg). The solution was heated to reflux for 10 hours. The solution was allowed to cool to ambient temperature, was diluted with chloroform (100 mL) and was acidified with 1N sulfuric acid. The aqueous phase was further extracted with chloroform and the combined organic phases were dried over anhydrous magnesium sulfate. Removal of solvent under reduced pressure afforded crude acid as a yellow glass. The compound was purified by chromatography on silica (eluting with 25% ethyl acetate, 1% acetic acid in hexanes) to afford the title compound (396 mg) as a yellow crystalline solid.

reactant | methyl (-)-2-chloro-4b-methyl-4b,5,6,10-tetrahydrophenanthrene-7-carboxylate | 1.73 mmol, 500 mg | ClC1=CC=2CC=C3C=C(CCC3(C2C=C1)C)C(=O)OC | C17H17ClO2
reactant | potassium carbonate | 300 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sulfuric acid | 1N | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 19 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | (-)-2-Chloro-4b-methyl-4b,5,6,10-tetrahydrophenanthrene-7-carboxylic acid | 396 mg | ClC1=CC=2CC=C3C=C(CCC3(C2C=C1)C)C(=O)O | C16H15ClO2
